US07074799B2
Heat a mixture of 7-bromo-2-chloromethyl-3H-quinazolin-4-one (5 g, 18.2 mmol), 2,6-lutidine (5 g), and phosphorus oxychloride (5 mL) in 1,2-dimethoxyethane (500 mL) at 80° C. for 16 hours. Cool the mixture to room temperature and fully evaporate the mixture, then dilute with ether and wash with water. Dry the solvent (Na2SO4) and evaporate the ether to obtain 7-bromo-4-chloro-2-chloromethylquinazoline (3.5 g) as a yellow solid.

reactant | 7-bromo-2-chloromethyl-3H-quinazolin-4-one | 18.2 mmol, 5 g | BrC1=CC=C2C(NC(=NC2=C1)CCl)=O | C9H6BrClN2O
reactant | 2,6-lutidine | 5 g | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dimethoxyethane | 500 mL | COCCOC | C4H10O2
product | 7-bromo-4-chloro-2-chloromethylquinazoline | 3.5 g | BrC1=CC=C2C(=NC(=NC2=C1)CCl)Cl | C9H5BrCl2N2
